US07741320B2
Step A: 4-fluoro-3-sulphamoylbenzoic acid
A suspension of 2-fluoro-5-methylbenzenesulphonamide (5.3 mmol), obtained according to the process described in Step A of Example 1 starting from 2-fluoro-5-methylaniline, in water (50 mL) is heated at 70° C. and then NaOH 10% w/v is added dropwise until the compound has completely dissolved. Potassium permanganate (3 g) is added in small portions. After stirring for 4 hours, the suspension is discharged by filtration in the hot state and the filtrate is brought to pH 1 by adding 12N HCl. The precipitate obtained is collected by filtration, washed with water and dried to yield the title product in the form of a white solid.

reactant | 2-fluoro-5-methylbenzenesulphonamide | 5.3 mmol | FC1=C(C=C(C=C1)C)S(=O)(=O)N | C7H8FNO2S
reactant | 2-fluoro-5-methylaniline | FC1=C(N)C=C(C=C1)C | C7H8FN
reactant | NaOH | [OH-].[Na+]
reactant | Potassium permanganate | 3 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | water | 50 mL | O | H2O
product | 4-fluoro-3-sulphamoylbenzoic acid | FC1=C(C=C(C(=O)O)C=C1)S(N)(=O)=O | C7H6FNO4S
